US04126610
Into a solution composed of 6.8 parts of cuprous bromide in 300 parts by volume of bis-(β-cyanoethyl) sulfide, there are introduced 26 parts of 3-cinnamoylamino-4-(2'-bromo-4', 6'-dinitrophenylazo)-N,N-diethylaniline. The mixture is heated to 100° C. and, during several minutes, a solution of 2.6 parts of sodium cyanide in 16 parts of water is allowed to flow in. Stirring is continued for 1 to 2 hours more, at 115° C. After cooling to 30° C., the 3-cinnamoylamino-4-(2'-cyano-4',6'-dinitrophenylazo)-N,N-diethylaniline formed is separated, under the same conditions as in example 1. The yield is 85.5%.

reactant | bis-(β-cyanoethyl) sulfide | C(#N)CCSCCC#N | C6H8N2S
reactant | 3-cinnamoylamino-4-(2'-bromo-4', 6'-dinitrophenylazo)-N,N-diethylaniline | C(C=CC1=CC=CC=C1)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])Br | C25H23BrN6O5
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | water | O | H2O
product | 3-cinnamoylamino-4-(2'-cyano-4',6'-dinitrophenylazo)-N,N-diethylaniline | yield is 85.5% | C(C=CC1=CC=CC=C1)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C#N | C26H23N7O5
